US07504420B2
4-methyl-isophthalic acid
The precursor compound was synthesized from 2,5-dimethylbenzoic acid following the procedure described for 5-fluoro-isophthalic acid.

reactant | 2,5-dimethylbenzoic acid | CC1=C(C(=O)O)C=C(C=C1)C | C9H10O2
reactant | 5-fluoro-isophthalic acid | FC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5FO4
product | 4-methyl-isophthalic acid | CC1=C(C=C(C(=O)O)C=C1)C(=O)O | C9H8O4
